Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Ampicillin / Sulfa (Sulfonamide Antibiotics) / Flonase / 
Trileptal / CeraVe
 
Attending: ___.
 
Chief Complaint:
AED medication titration
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
AED trials include:
1. Carbamazepine - abnormal LFTs and hypogammaglobulenemia
2. Phenobarbital - ineffective
3. Phenytoin - ineffective, cognitive side effects
4. Valproate - ineffective, severe cognitive side effects
5. Lamotrigine - worked well, but abnormal LFTs
6. Levetiracetam - worked, but caused diarrhea and weight gain
7. Gabapentin - worked well, but abnormal LFTs
8. Topiramate - worked well, but breathing and immune problems
9. Tiagabine - behavioral and cognitive side effects
10 Oxcarbazepine - severe cognitive side effects, hyponatremia
11. VNS ___ - great reduction in seizure frequency by 60-70%

Prior Diagnostics:
Multiple prior EEGs and LTMs with seizures onsetting in R
frontotemporal region and may secondarily generalize
Last EEG ___ was normal. 

___ Brain MRI: Brain MRI showed markedly enlarged lateral third
and fourth ventricles, type 1 ___ malformation, and
usual skull
shape, area of susceptibility in the posterior aspect of the
right lateral temporal lobe, adjacent to an area of a breech in
the skull which was likely related to previous skull surgery.

Interval History:
Patient reports feeling tired on tegretol and has onset of
hypogammaglobulinemia around the time of onset of tegretol
monotherapy in ___ with frequent illnesses. She endorses having
dizziness that is especially worse when getting up or moving her
head on the bed, and she has been told she has BPPV. She 
endorses
dysphagia, which is worse with solid foods, sometimes she 
chokes,
otherwise liquids are fine and has a history of achalasia  but
had a normal swallow study in the past per records. She has a
long standing history of word finding problems. She has some 
gait
problems, and sometimes walks into walls, which she attributes 
to
her intermittent dizziness. She denies any headaches, fainting,
blackouts, blurry vision, double vision, dysarthria, hearing
difficulties, tinnitus, weakness, numbness, tingling, or
incontinence.

On general ROS, she denies any fevers, chills, night sweats,
weight loss or weight gain, palpitations, nausea, vomiting. She
endorses having a panic attack today before coming into the
hospital, but was happy she was able to make it. She also
endorses constipation and abdominal pain. She endorses pain in
her knees that hurts when going up and down stairs. Denies any
new skin rash. She is pending repeat sleep study for
sleep-disordered breathing. 

 
Past Medical History:
Crouzon syndrome s/p multiple skull surgeries, hysterectomy,
constipation, epilepsy, hemochromatosis, hypogammaglobulinemia,
solitary kidney, hypothyroidism, sleep disorder and hyponatremia 

 
Social History:
___
Family History:
Both parents had HTN, HLD
Father had supranuclear cerebral palsy
Father's side has strong history of hemochromatosis, breast
cancer
Both her brothers have HLD

 
Physical Exam:
ADMISSION EXAM

Physical Exam:
 General: Healthy appearing woman, who looks her age, active,
interactive with examiner, and very friendly
 HEENT: no scleral icterus, mucous membranes moist, no lesions
noted on oropharnyx
 Neck: supple, no carotid bruits 
 Pulmonary: 
 Cardiac: Regular rate and rhythm, systolic murmur present
 Abdomen: soft, NT/ND, +BS
 Skin: dry skin 

 Neurologic:

 -Mental Status: 
Pt alert, awake, and oriented to ___, year, month, day,
name, DOB. Attentive, able to name ___ backwards. Language is
fluent, no paraphasic errors, intact repetition and
comprehension. Pt able to name both high and low frequency
objects. Speech not dysarthric. Able to follow simple and 
complex
commands. Able to register ___ words, recall after 5 min = ___,
category cues = ___. No evidence of neglect.

 -Cranial Nerves:
CN I: Not tested
II, III, IV, VI: PERRL 4 ->2, and brisk. EOM intact, with
sustained horizontal jerk nystagmus on lateral gaze bilaterally
and does have decreased upgaze in the R eye though her R eye is
downslanted at the lateral palpebral fissure which is likely
chronic and ___ multiple cranial surgeries.  
V: Normal facial sensation 
VII: No facial droop, able to smile symmetrically 
VIII: Intact to finger rub bilaterally 
IX, X: Palate elevate symmetrically, pt with bifid uvula
XI: ___ strength in trapezi, and SCM bilaterally
XII: Tongues protrudes in midline

 -Motor: Normal bulk and tone. No pronator drift

   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
 L  5    ___  ___  5 5    ___      5   
 R  5    ___  ___  5 5    ___      5   

 -Sensory: 
No deficits to light touch 

 -DTRs:
   Bi ___ Pat Ach
 L  3+  3+  3+  2+
 R  3+  3+  3+ 2+
L more hyperreflexic than L throughout, +adductors present
bilaterally, no crossed adductors

 Plantar response downgoing bilaterally

 -Coordination: 
normal FNF with dysmetria, normal finger tapping bilaterally 

 -Gait: 
Normal gait, no Romberg sign

DISCHARGE EXAM

Unchange
 
Pertinent Results:
___ 09:15PM   CARBAMZPN-9.0
___ 09:15PM   WBC-4.0 RBC-3.78* HGB-11.6 HCT-33.4* MCV-88 
MCH-30.7 MCHC-34.7 RDW-12.5 RDWSD-40.1
___ 09:15PM   NEUTS-49.2 ___ MONOS-12.1 EOS-1.3 
BASOS-0.5 IM ___ AbsNeut-1.95 AbsLymp-1.45 AbsMono-0.48 
AbsEos-0.05 AbsBaso-0.02
___ 09:15PM   PLT COUNT-184
___ 09:15PM   ___ PTT-30.3 ___
___ 04:45AM BLOOD Triglyc-54 HDL-134 CHOL/HD-2.2 
LDLcalc-150*

EKG upon admission and discharge with PR 174

 
Brief Hospital Course:
Ms. ___ was admitted to the epilepsy service for medication 
titration and EEG monitoring. Her tegretol was decreased from 
600mg BID to off by decreasing 200mg BID daily. Additionally she 
was started on vimpat uptitrated to 200mg BID. EKG was obtained 
after goal dose of vimpat obtained which PR interval 174. She 
experienced no side effects -- no dizziness, no increased 
nystagumus, and was ambulating well. 

Her EEG was monitored which revealed no seizures, final read 
pending. She had no events. 

Of note, she also had a lipid panel drawn which revealed LDL 150 
and can be followed by PCP.

TRANSITIONAL ISSUES:
1. Continue vimpat 200mg BID monotherapy
2. Follow-up LDL level 150 by PCP

 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 
2. Carbamazepine (Extended-Release) 600 mg PO BID 
3. Escitalopram Oxalate 20 mg PO MORNING 
4. Levothyroxine Sodium 88 mcg PO MORNING 
5. Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 
6. Vitamin D 4000 UNIT PO DAILY 

 
Discharge Medications:
1. Levothyroxine Sodium 88 mcg PO QAM 
2. Escitalopram Oxalate 20 mg PO QAM 
3. Multivitamins 1 TAB PO DAILY 
4. Vitamin D 4000 UNIT PO DAILY 
5. LACOSamide 200 mg PO BID 
RX *lacosamide [Vimpat] 200 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*1
6. LORazepam 0.5 mg PO DAILY PRN seizure aura 
7. Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Epilepsy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to monitor you while your seizure medication 
was changed. Your tegretol was discontinued and vimpat 
initiated. You will be discharged to home on vimpat 200mg twice 
daily only. 
 
Followup Instructions:
___